US08629160B2
Preparation of (R)-methyl 3-(1-(6-methoxypyridin-3-yl)-2-oxo-2-(quinuclidin-3-yloxy)ethylamino)thiophene-2-carboxylate (Diastereomer 1 and 2 of C60)
To a solution of 2-(2-(methoxycarbonyl)thiophen-3-ylamino)-2-(6-methoxypyridin-3-yl)acetic acid (I59) (548 mg, 1.70 mmol) in THF (20 ml), were added N,N′-methanediylidenedicyclohexanamine (421 mg, 2.04 mmol), 1H-benzo[d][1,2,3]triazol-1-ol (276 mg, 2.04 mmol), and (R)-quinuclidin-3-ol (259 mg, 2.04 mmol). The reaction mixture was stirred at room temperature for 15 hours, and then the solvent was evaporated. The residue was taken up with DCM, and the insoluble was removed by filtration. The organic phase was washed twice with Na2CO3 and then brine, dried over Na2SO4, filtered and evaporated. The crude product was purified by flash chromatography (DCM/MeOH=95/5) collecting first diastereomer 1 of C60 (140 mg, 19 yield) and then a mixture of diastereomers 1 and 2 of C60 (100 mg, 14% yield).

reactant | 2-(2-(methoxycarbonyl)thiophen-3-ylamino)-2-(6-methoxypyridin-3-yl)acetic acid | 1.70 mmol, 548 mg | COC(=O)C=1SC=CC1NC(C(=O)O)C=1C=NC(=CC1)OC | C14H14N2O5S
reactant | N,N′-methanediylidenedicyclohexanamine | 2.04 mmol, 421 mg | C(=NC1CCCCC1)=NC1CCCCC1 | C13H22N2
reactant | 1H-benzo[d][1,2,3]triazol-1-ol | 2.04 mmol, 276 mg | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | (R)-quinuclidin-3-ol | 2.04 mmol, 259 mg | N12C[C@@H](C(CC1)CC2)O | C7H13NO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (R)-methyl 3-(1-(6-methoxypyridin-3-yl)-2-oxo-2-(quinuclidin-3-yloxy)ethylamino)thiophene-2-carboxylate | 14% yield | COC1=CC=C(C=N1)[C@H](C(OC1CN2CCC1CC2)=O)NC2=C(SC=C2)C(=O)OC | C21H25N3O5S
